US05212173
A solution of 5.0 g of isobutanol in 50 ml of toluene was added at a temperature of 0° C. to a solution of 3.25 g of sodium hydride in 100 ml of toluene, and the reaction mixture was heated under reflux for 3 hours. 12.4 g of N-benzyl-N-methyl-2-chloroethylamine were then added to the reaction mixture, and the solution was heated under reflux for a further 8 hours. The reaction solution was worked up by cautiously adding 5 ml of methanol and then 100 ml of water, and the pH was then adjusted to pH 2 by adding dilute aqueous hydrochloric acid solution. After shaking, the organic phase was separated and discarded. The aqueous phase was adjusted to pH 13 by addition of aqueous sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate extract was dried over sodium sulfate, filtered and concentrated. The remaining residue was purified by chromatography on silica gel using n-hexane/ethyl acetate as the eluent. 10.7 g of N-[2-(2,2-dimethylethoxy)ethyl]-N-benzyl-N-methylamine were obtained.

reactant | isobutanol | 5.0 g | C(C(C)C)O | C4H10O
reactant | sodium hydride | 3.25 g | [H-].[Na+]
reactant | N-benzyl-N-methyl-2-chloroethylamine | 12.4 g | C(C1=CC=CC=C1)N(C)CCCl | C10H14ClN
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | N-[2-(2,2-dimethylethoxy)ethyl]-N-benzyl-N-methylamine | 10.7 g | CC(COCCN(C)CC1=CC=CC=C1)C | C14H23NO
